US09227971B2
Cs2CO3 (651.6 mg, 2.0 mmol) and then FCH2Br (446.6 mg, 4.0 mmol) were added to a mixture of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (220 mg, 1.0 mmol)) in CH3CN (10 ml). After stirring at room temperature overnight, the mixture was filtered and concentrated. Purification by column chromatography afforded 2-(4-(fluoromethoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane: LCMS tR=1.39 Min (5 min run, UV254nm). Mass calculated for, M+ 252.1, observed LC/MS m/z 253.1 (M+H).

reactant | Cs2CO3 | 2.0 mmol, 651.6 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | FCH2Br | 4.0 mmol, 446.6 mg | FCBr | CH2BrF
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 1.0 mmol, 220 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
solvent | CH3CN | 10 ml | CC#N | C2H3N
product | 2-(4-(fluoromethoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | FCOC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C13H18BFO3
